US05942516
k) 6-Benzyloxymethyl-4-chloro-5-iodo-pyrimidine
A solution of 6-benzyloxymethyl-4-hydroxy-5-iodo-pyrimidine (6.56 g, 1.9 mmol) dissolved in phosphorus oxychloride (200 ml) was stirred at reflux for 20 min. The POCl3 was removed under reduced pressure and the residue evaporated from toluene. The reddish residue was partitioned between ice-water and t-butyl methyl ether, then treated with NaHCO3, and the layers separated, and the aqueous layer was further extracted (×2). The combined organic extracts were washed twice with 5% sodium bicarbonate solution and once with brine, and then dried (Na2SO4), filtered and concentrated under reduced pressure to give the crude product as a brown oil (6.64 g, 97%).

reactant | 6-benzyloxymethyl-4-hydroxy-5-iodo-pyrimidine | 1.9 mmol, 6.56 g | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)O)I | C12H11IN2O2
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Benzyloxymethyl-4-chloro-5-iodo-pyrimidine | 6.64 g, 97% | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)Cl)I | C12H10ClIN2O
